US07582673B2
To a solution of benzo[b]thiophene-2-sulfonic acid (2-aminophenyl)-amide (1 mmol) in DCM (2 mL) and pyridine (2 mL), methyl 3-(chlorosulfonyl)-4-methoxybenzoate (1.1 mmol) was added at RT and the reaction mixture was then allowed to stir at RT overnight. The reaction mixture was then diluted with DCM (10 mL). The organic phase was washed with 10% aqueous HCl (10 mL), water (10 mL) and brine (10 mL). The organic phase was dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue obtained was purified by flash column chromatography eluting with DCM/EtOAc to obtain 350 mg of 3-[2-(benzo[b]thiophene-2-sulfonylamino)phenylsulfamoyl]-4-methoxybenzoic acid methyl ester. Tr 1.10 min, MS: 533.7 (M+1)+. 1H NMR (CDCl3, 400 MHz): δ 3.84 (s, 3H), 4.18 (s, 3H), 7.0-7.2 (m, 5H), 7.4-7.6 (m, 3H), 7.66 (s, 1H), 7.80 (d, 1H), 7.83 (d, 1H), 8.22 (dd, 1H), 8.34 (d, 1H) ppm.

reactant | benzo[b]thiophene-2-sulfonic acid (2-aminophenyl)-amide | 1 mmol | NC1=C(C=CC=C1)NS(=O)(=O)C1=CC2=C(S1)C=CC=C2 | C14H12N2O2S2
reactant | methyl 3-(chlorosulfonyl)-4-methoxybenzoate | 1.1 mmol | ClS(=O)(=O)C=1C=C(C(=O)OC)C=CC1OC | C9H9ClO5S
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-[2-(benzo[b]thiophene-2-sulfonylamino)phenylsulfamoyl]-4-methoxybenzoic acid methyl ester | 350 mg | COC(C1=CC(=C(C=C1)OC)S(NC1=C(C=CC=C1)NS(=O)(=O)C1=CC2=C(S1)C=CC=C2)(=O)=O)=O | C23H20N2O7S3
